US07459448B2
N-(10-Iodo-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepin-2-yl)-benzamide (I-83)
2-Amino-10-iodo-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-51) (69.7 mg, 0.20 mmol) was dissolved in pyridine (800 μL) and benzoyl chloride (23 mL, 0.20 mmol). The mixture was stirred at 110° C. for 1 h, then cooled to 22° C. Et2O was added and the product was filtered from the solution to give I-83 (37%): MS (FA) Rt═1.49 min, m/z═457 (M+H).

reactant | 2-Amino-10-iodo-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | 0.20 mmol, 69.7 mg | NC=1N=CC2=C(C3=C(NC(C2)=O)C=CC(=C3)I)N1 | C12H9IN4O
reactant | benzoyl chloride | 0.20 mmol, 23 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | Et2O | CCOCC | C4H10O
solvent | pyridine | 800 μL | N1=CC=CC=C1 | C5H5N
product | N-(10-Iodo-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepin-2-yl)-benzamide | IC1=CC2=C(NC(CC3=C2N=C(N=C3)NC(C3=CC=CC=C3)=O)=O)C=C1 | C19H13IN4O2
